US04009210
A 500 ml reaction flask fitted with a mechanical stirrer, heating mantle, thermometer and water-cooled condenser was charged with 166 ml of glacial acetic acid and 34 ml of water. To the stirred solution were added 61.7 g (0.8 mole) of ammonium acetate, 12 g of paraformaldehyde (0.4 mole equivalent of formaldehyde) and 20.6 g (0.1 mole) of 2,6-ditert.butylphenol. The mixture was refluxed (111°-12°) for 6 hours. After cooling to ambient temperature, the mixture was poured on a vacuum filter and the cake was washed with water. After drying, there was obtained 13.6 g (58%) of impure 3,5-ditert.butyl-4-hydroxybenzaldehyde, m.p. 174°-80°. Following recrystallization from 2-propanol, the yellow crystalline product melted at 188°-90°.

reactant | ammonium acetate | 0.8 mole, 61.7 g | C(C)(=O)[O-].[NH4+]
reactant | paraformaldehyde | 0.4 mole, 12 g | C=O | CH2O
reactant | 2,6-ditert.butylphenol | 0.1 mole, 20.6 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
solvent | water | 34 ml | O | H2O
solvent | acetic acid | 166 ml | C(C)(=O)O | C2H4O2
product | 3,5-ditert.butyl-4-hydroxybenzaldehyde | 13.6 g, 58% | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
